US08003651B2
Methyl 2-(4-chlorophenyl)propanoate (1.50 g, 7.55 mmol) was dissolved in THF (14 mL) and cooled to 0° C. The solution was treated with KOtBu (85 mg, 0.755 mmol) and allowed to stir for 15 minutes. The solution was cooled to −78° C. and then treated with the acrylate (1.22 mL, 8.31 mmol). The mixture was allowed to stir overnight to room temperature to completion by TLC analysis. The mixture was then quenched with saturated NH4Cl. The THF was removed in vacuo to afford a yellow oil. The residue was partitioned between ethyl acetate and water. The aqueous was extracted with ethyl acetate, and the organics were combined. The organic portion was washed with water, then brine, separated, dried over MgSO4, filtered, and concentrated in vacuo to afford the crude material as a yellow oil. The material was purified by chromatography (silica gel eluted with 90:10 hexanes:ethyl acetate, Rf=0.35) to afford 5-tert-butyl 1-methyl 2-(4-chlorophenyl)-2-methylpentanedioate as a colorless oil (1.69 g, 69%). This 5-tert-butyl 1-methyl 2-(4-chlorophenyl)-2-methylpentanedioate (1.69 g, 5.17 mmol) was dissolved in TFA (15.9 mL; 207 mmol) at room temperature and allowed to stir for 2 hours to completion by LCMS (neg) analysis. The solution was concentrated in vacuo to afford 4-(4-chlorophenyl)-5-methoxy-4-methyl-5-oxopentanoic acid as a colorless oil (1.42 g, 100%).

reactant | Methyl 2-(4-chlorophenyl)propanoate | 7.55 mmol, 1.50 g | ClC1=CC=C(C=C1)C(C(=O)OC)C | C10H11ClO2
reactant | KOtBu | 0.755 mmol, 85 mg | CC(C)(C)[O-].[K+]
reactant | acrylate | 8.31 mmol, 1.22 mL | C(C=C)(=O)[O-]
reactant | THF | 14 mL | C1CCOC1 | C4H8O
product | 5-tert-butyl 1-methyl 2-(4-chlorophenyl)-2-methylpentanedioate | 1.69 g, 69% | ClC1=CC=C(C=C1)C(C(=O)OC)(CCC(=O)OC(C)(C)C)C | C17H23ClO4
